US08076488B2
To a solution of 4-chloropyridine-2-carbonyl choride HCl (2.00 g, 9.41 mmol) in THF (16.4 mL) and acetonitrile (9.4 mL) was added 2-amino-N-methylacetamide hydrochloride (1.29 g, 10.35 mmol, 1.1 eq) and triethylamine (5.25 mL, 37.6 mmol, 4.0 eq) at 0° C. The resulting dark brown reaction mixture was stirred at RT for 2 h. The volatile solvent was removed under reduced pressure, and the residue was partitioned between EtOAc and water. The organic layer was washed with water and brine, dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude product was purified on MPLC (biotage) eluted with 100% EtOAc to give 1.4 g (65.3%) of 4-chloropyridine-2-carboxylic acid methylcarbamoyl-N-methylamide as a tan solid: TLC (75% EtOAc/hex), Rf=0.14; MS LC-MS [M+H]+=228.

reactant | 4-chloropyridine-2-carbonyl choride HCl | 9.41 mmol, 2.00 g | Cl.ClC1=CC(=NC=C1)C(=O)Cl
reactant | 2-amino-N-methylacetamide hydrochloride | 10.35 mmol, 1.29 g, 1.1 eq | Cl.NCC(=O)NC
reactant | triethylamine | 37.6 mmol, 5.25 mL, 4.0 eq | C(C)N(CC)CC | C6H15N
solvent | THF | 16.4 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 9.4 mL | C(C)#N | C2H3N
product | 4-chloropyridine-2-carboxylic acid methylcarbamoyl-N-methylamide | 1.4 g, 65.3% | CNC(=O)N(C(=O)C1=NC=CC(=C1)Cl)C | C9H10ClN3O2
